US06979741B2
2-Pyridin-4-yl-6-trifluoromethyl-quinoline-4-carboxylic acid
To a three-necked flask equipped with a stirring bar, thermometer and 2 addition funnels was added a solution of 4-trifluoromethylaniline (0.088 mol, 11.05 mL) in dichloromethane (300 mL). The solution was cooled to −70° C. and a solution of t-butyl hypochlorite (0.088 mol, 9.95 mL) in dichloromethane (20 mL) was added dropwise over a period of 30 minutes maintaining the temperature at −60° C. The mixture was then stirred at −70° C. for 1 h and a solution of methylsulfanyl-acetic acid methyl ester (0.088 mol, 9.52 mL) in dichloromethane (20 mL) was added over a period of 30 minutes maintaining the temperature at −65° C. The reaction mixture was stirred for 1 hour at −70° C. Triethylamine (0.088 mol, 12.3 mL) was added dropwise and stirring at −70° C. continued for 30 minutes before allowing the mixture to warm to room temperature. After 1 hour at ambient temperature the dichloromethane was evaporated under vacuum and ether (200 mL) was added to the residue followed by water (150 mL). The ether layer was separated, 1N hydrochloric acid (50 mL) added and the mixture was stirred for 16 hr at room temperature. The organic layer was separated, dried over anhydrous sodium sulfate and the solvent removed under vacuum. The residue was purified by chromatography on silica gel eluting with dichloromethane followed by 19:1 dichloromethane-ethyl acetate then 9:1 dichloromethane-ethyl acetate to give 3-methylsulfanyl-5-trifluoromethyl-1,3-dihydro-indol-2-one as a yellow solid (12.9 g, 59%). N-Chlorosuccimide (1.5 eq, 4.87 g, 36.46 mmol) was added to a solution of 3-methylsulfanyl-5-trifluoromethyl-1,3-dihydro-indol-2-one (6 g, 24.29 mmol) in chloroform (100 mL). After stirring for 2 hours at room temperature the precipitate was removed by filtration through a pad of Celite® and the solvent was removed under vacuum. The residue was dissolved in tetrahydrofuran (30 mL) and added to a solution prepared from red mercury (II) oxide (1.0 eq., 5.26 g, 24.29 mmol) in a mixture of tetrahydrofuran (80 mL) and water (20 mL) to which was added boron trifluoride etherate (1.0 eq, 2.99 mL). The solution was stirred overnight at room temperature then filtered through a pad of Celite®, rinsing through with tetrahydrofuran. The solution was extracted with dichloromethane (4×100 mL) and the combined organic layers dried over anhydrous sodium sulfate and the solvent was removed under vacuum. The residue was purified by chromatography on silica gel eluting with 10% ethyl acetate-dichloromethane to give 5-trifluoromethyl-1H-indole-2,3-dione as a yellow solid (2.79 g, 53%). To a solution of 5-trifluoromethyl-1H-indole-2,3-dione (0.93 mmol, 200 mg) in ethanol (30 mL) was added 1M sodium hydroxide (15 mL) and the mixture was stirred for 30 min. 4-Acetylpyridine (1.02 mmol, 0.072 mL) was added and the solution was heated under reflux for 16 hr. After cooling the mixture was extracted with diethyl ether and the organic layer was dried over anhydrous sodium sulfate and the solvent was removed under vacuum. The residue was purified by chromatography on a 4 mm silica gel rotor eluting with 9:1 dichloromethane-methanol to give the title compound (300 mg, 100%).

reactant | 5-trifluoromethyl-1H-indole-2,3-dione | 0.93 mmol, 200 mg | FC(C=1C=C2C(C(NC2=CC1)=O)=O)(F)F | C9H4F3NO2
reactant | sodium hydroxide | 1M, 15 mL | [OH-].[Na+]
reactant | 4-Acetylpyridine | 1.02 mmol, 0.072 mL | C(C)(=O)C1=CC=NC=C1 | C7H7NO
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-Pyridin-4-yl-6-trifluoromethyl-quinoline-4-carboxylic acid | 300 mg, 100% | N1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(=C1)C(=O)O)C(F)(F)F | C16H9F3N2O2
